US05215994
Chlorosulfonyl isocyanate (1.2 ml) in methylene chloride (12 ml) was added dropwise to a stirred solution of 1-(2-bromo-4-methylphenyl)pyrrole (2.5 g) in methylene chloride (25 ml) kept about -20° C. under nitrogen atmosphere. The reaction mixture was stirred at -20° C. for 30 minutes and at room temperature for 1.5 hours, and then was added dropwise dimethylformamide (1.7 ml) keeping at about -20° C. The reaction mixture was stirred at -20° C. for 30 minutes and at room temperature for an hour. To the reaction mixture was added 4N-hydrochloric acid at 0° C., and stirred at 0° C. for 30 minutes. The organic layer was washed with water and saturated sodium hydrogencarbonate solution, and dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography with a mixture of ethyl acetate and n-hexane (1:10) as eluent to give 1-(2-bromo-4-methylphenyl)pyrrole-2-carbonitrile (2.4 g).

reactant | Chlorosulfonyl isocyanate | 1.2 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | 1-(2-bromo-4-methylphenyl)pyrrole | 2.5 g | BrC1=C(C=CC(=C1)C)N1C=CC=C1 | C11H10BrN
reactant | dimethylformamide | 1.7 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-bromo-4-methylphenyl)pyrrole-2-carbonitrile | 2.4 g | BrC1=C(C=CC(=C1)C)N1C(=CC=C1)C#N | C12H9BrN2
